US07579359B2
4-Chloroquinolin-3-ylformamide (4.1 g, 0.020 mol) was treated with O-(tert-butyl)hydroxylamine hydrochloride (2.8 g, 22 mmol) according to the method of Part B of Example 20 to provide 3.4 g of 1-tert-butoxy-1H-imidazo[4,5-c]quinoline, which was used without chromatographic purification.

reactant | 4-Chloroquinolin-3-ylformamide | 0.020 mol, 4.1 g | ClC1=C(C=NC2=CC=CC=C12)NC=O | C10H7ClN2O
reactant | O-(tert-butyl)hydroxylamine hydrochloride | 22 mmol, 2.8 g | Cl.C(C)(C)(C)ON
product | 1-tert-butoxy-1H-imidazo[4,5-c]quinoline | 3.4 g | C(C)(C)(C)ON1C=NC=2C=NC=3C=CC=CC3C21 | C14H15N3O
